US06444656B1
To a solution of acetic acid 6-acetoxy-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-ylmethyl ester (623 mg, 2.27 mmol) in dichloromethane (3 mL) was added iodotrimethylsilane (0.35 mL, 2.49 mmol) at −78° C. and the reaction mixture brought to RT. After confirming the disappearance of starting material by TLC, triisopropylphosphite (1.18 mL, 5.68 mmol) was added at −78° C. The reaction mixture was left to warm to RT and stirred overnight. The reaction was quenched with sodium bicarbonate, extracted with dichoromethane, the organic layers concentrated, dried and chromatographed. Elution with 50% ethylacetate/hexanes gave acetic acid 6-(diisopropoxy-phosphoryl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-ylmethyl ester as a colorless syrup (467 mg, 54%).

reactant | acetic acid 6-acetoxy-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-ylmethyl ester | 2.27 mmol, 623 mg | C(C)(=O)OC1OC(C2C1OC(O2)(C)C)COC(C)=O | C12H18O7
reactant | iodotrimethylsilane | 2.49 mmol, 0.35 mL | I[Si](C)(C)C | C3H9ISi
reactant | triisopropylphosphite | 5.68 mmol, 1.18 mL | C(C)(C)OP(OC(C)C)OC(C)C | C9H21O3P
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | acetic acid 6-(diisopropoxy-phosphoryl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-ylmethyl ester | 467 mg, 54% | C(C)(C)OP(=O)(OC(C)C)C1OC(C2C1OC(O2)(C)C)COC(C)=O | C16H29O8P
